US04196293
Into a three liter flask were placed 523 grams (4.6 moles) of 6-fluoro-2-pyridinol, 638 grams (4.6 moles) potassium carbonate, 1.0 grams HgCl2 and two liters of acetonitrile. The mixture was stirred at 50°-55° C. for two hours and allowed to cooled. The mixture was stirred while 269 grams (2.1 moles) of ethylphosphonothioic dichloride was added dropwise. An exotherm from 25° C. to 55° C. was obtained. The mixture was stirred at 50° C. for five hours and allowed to cool. The insolubles were filtered off and the solvent removed under reduced pressure at 45° C. The resulting oil was taken up in 1.5 liters of methylene chloride and washed once with one liter of water, once with one liter of aqueous 2% NaOH and again with one liter of water. The product layer was dried over sodium sulfate, filtered and the solvent removed under reduced pressure at 45° C. The resulting oil was poured into 250 milliliters of cold n-hexane and stirred. The solid product was filtered off and dried to give a 52% yield of the desired O,O-bis(6 -fluoro-2-pyridinyl) ethylphosphonothioate, m.p. 46°-48° C. (compound No. 1).

reactant | 6-fluoro-2-pyridinol | 4.6 moles, 523 grams | FC1=CC=CC(=N1)O | C5H4FNO
reactant | potassium carbonate | 4.6 moles, 638 grams | C([O-])([O-])=O.[K+].[K+]
reactant | ethylphosphonothioic dichloride | 2.1 moles, 269 grams | C(C)P(=S)(Cl)Cl | C2H5Cl2PS
catalyst | HgCl2 | 1.0 grams | Cl[Hg]Cl
solvent | acetonitrile | two liters | C(C)#N | C2H3N
product | O,O-bis(6 -fluoro-2-pyridinyl) ethylphosphonothioate | 52% yield | C(C)P(OC1=NC(=CC=C1)F)(OC1=NC(=CC=C1)F)=S | C12H11F2N2O2PS
